Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Vaginal bleeding, light headedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y.o. perimenopausal F with ESRD ___
T1DM s/p simultaneous pancreas-kidney ___, 
HTN,
with a recent hospitalization from ___ for provoked LLE DVT
(currently not on anti-coagulation), who is being admitted to 
the
Inpatient Medicine Service on ___ for vaginal bleeding and
anemia (Hgb 6.7). 

She reports having intermittent vaginal spotting for the past 9
months (perimenopause), but reported LMP ___. Since that time,
she reports heavy bleeding, requiring anywhere from ___ 
pads/day.
In the past, she had irregular cycles, but no dysmenorrhea or
menorrhagia. 

Aside from taking Tylenol, she has not been taking any NSAIDS.
Although she was admitted in ___ for LLE DVT for which she 
was
previously on warfarin, she reports warfarin was discontinued by
her PCP ___ ___. 

Since starting her menstrual cycle, she has been experiencing
fatigue, dyspnea, lightheadedness, headache relieved with
Tylenol. She also endorses intermittent abdominal cramping. Of
note, she has baseline diarrhea ___ loose stools/day) for 
which
she has been taking loperamide. She is following up with GI as 
an
outpatient regarding possible IBS. 

In the ED: 
Initial vital signs were notable for:
T 98.2, HR 87, BP 135/89, RR 18, SpO2 99% RA 
 
Exam notable for: pale skin. Pelvic exam notable for no lesions
or polyps noted in vagina or cervix, blood-tinged mucous at os,
small amount of blood in vaginal vault, no CMT, clots or 
abnormal
discharge.

Labs were notable for:
CBC: Hgb 6.7, WBC 7.7, Plt 183
BMP: K 5.5 (repeat whole blood 5.0 without intervention), HCO3
18, BUN 30, Cr 2.2 (baseline 1.8)
LDH: 287
INR: 1.0 
U/A with small leuk, neg nit, pyuria, few bacteria. UCx pending. 

Urine hcg neg.

Studies performed include:
___ Renal U/S: Normal renal transplant U/S
___ TVUS: Heterogeneous endometrium with both echogenic and
cystic portions, measuring up to 7 mm. These findings may
represent blood products due to stage of menstrual cycle,
although underlying polyp or additional lesion is difficult to
exclude. Recommend gynecologic follow-up and follow-up 
ultrasound
___ days after termination of bleeding.

Patient was given: 2U pRBC 

Consults:
-Renal Transplant recommended 
-OBGYN not formally consulted, but recommended not to give
Provera given h/o provoked LLE DVT.

Vitals on transfer:
T 97.9, HR 87, BP 136/75, RR 18, SpO2 100% RA 
 
Upon arrival to the floor, pt recounts the story as stated 
above.
She feels vaginal bleeding has slowed down. She denies any HA,
dyspnea, lightheadedness or cramping on the floor. She denies
rhinorrhea, sore throat, cough, CP, palpitations, nausea,
vomiting, constipation, dysuria, urinary urgency or 
incontinence.

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative.

 
Past Medical History:
ESRD ___ T1DM s/p SPK (___)
HTN
Prior h/o squamous cell skin cancer (s/p excision from lip
___, nose ___
Provoked LLE DVT
s/p multiple abd hernia repairs
s/p ovarian cyst removal 
s/p appendix removal 

 
Social History:
___
Family History:
Mother bladder cancer.
Father colon cancer (dx age ___, skin cancer.
Two brothers, sister healthy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
#ERROR!
VITALS: T 97.7, 157/82, HR 81, RR 16, 98% RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Horizonal scar and vertical scars from prior abdominal
surgeries. Normal bowels sounds, non distended, non-tender to
deep palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No visible rash.
PELVIC: Exam deferred, as this was recently performed in ED.
NEUROLOGIC: AOx4. No focal neurologic deficits.

DISCHARGE PHYSICAL EXAM
#ERROR!
PHYSICAL EXAM:
VITALS: 24 HR Data (last updated ___ @ 1421)
    Temp: 98.3 (Tm 98.3), BP: 165/92 (132-165/64-92), HR: 72
(72-83), RR: 18 (___), O2 sat: 98% (98-99), O2 delivery: ra  
GENERAL: Alert and interactive. In no acute distress. Laying
comfortably in bed
HEENT: NCAT. PERRL, EOMI. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Horizonal scar and vertical scars from prior abdominal
surgeries. Normal bowels sounds, non distended, non-tender to
deep palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No visible rash.
PELVIC: Exam deferred
NEUROLOGIC: AOx4. No focal neurologic deficits.

 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 01:45PM BLOOD WBC-7.7 RBC-2.30* Hgb-6.7* Hct-21.3* 
MCV-93 MCH-29.1 MCHC-31.5* RDW-14.6 RDWSD-49.0* Plt ___
___ 01:45PM BLOOD Neuts-80.2* Lymphs-14.0* Monos-4.9* 
Eos-0.4* Baso-0.1 Im ___ AbsNeut-6.17* AbsLymp-1.08* 
AbsMono-0.38 AbsEos-0.03* AbsBaso-0.01
___ 01:45PM BLOOD ___ PTT-23.9* ___
___ 01:45PM BLOOD Glucose-96 UreaN-30* Creat-2.2* Na-141 
K-5.5* Cl-111* HCO3-18* AnGap-12
___ 01:45PM BLOOD ALT-8 AST-22 LD(LDH)-287* AlkPhos-54 
TotBili-<0.2
___ 01:45PM BLOOD cTropnT-<0.01
___ 01:45PM BLOOD Lipase-26
___ 01:45PM BLOOD Albumin-3.9
___ 01:45PM BLOOD Hapto-110
___ 03:01PM BLOOD K-5.0

INTERVAL LABS
#ERROR!
___ 03:08AM BLOOD WBC-6.9 RBC-2.88* Hgb-8.4* Hct-26.2* 
MCV-91 MCH-29.2 MCHC-32.1 RDW-13.7 RDWSD-45.7 Plt ___
___ 07:34AM BLOOD tacroFK-8.0 rapmycn-7.5

DISCHARGE LABS 
#ERROR!
___ 07:34AM BLOOD WBC-7.7 RBC-3.46* Hgb-10.2* Hct-31.4* 
MCV-91 MCH-29.5 MCHC-32.5 RDW-13.9 RDWSD-45.8 Plt ___
___ 07:34AM BLOOD ___
___ 03:08AM BLOOD ___
___ 07:34AM BLOOD Glucose-86 UreaN-27* Creat-2.1* Na-146 
K-4.9 Cl-115* HCO3-19* AnGap-12
___ 07:34AM BLOOD ALT-7 AST-16 LD(LDH)-182 AlkPhos-59 
TotBili-0.2
___ 07:34AM BLOOD Albumin-4.0 Calcium-9.3 Phos-3.6 Mg-1.5*
___ 03:08AM BLOOD Hapto-99

STUDIES/IMAGING
#ERROR!
Renal transplant US ___
FINDINGS:  
The left iliac fossa transplant renal morphology is normal.  
Specifically, the cortex is of normal thickness and 
echogenicity, pyramids are normal, there is no urothelial 
thickening, and renal sinus fat is normal.  There is no 
hydronephrosis.  Trace pelvic free fluid is noted. 
  
The resistive index of intrarenal arteries ranges from 0.59 to 
0.64, within the normal range.  The main renal artery shows a 
normal waveform, with prompt systolic upstroke and continuous 
antegrade diastolic flow, with peak systolic velocity of 125 
centimeters/second.  Vascularity is symmetric throughout 
transplant. The transplant renal vein is patent and shows normal 
waveform. 
IMPRESSION:  
Normal renal transplant ultrasound. 

Pelvic ultrasound transvaginal ___
FINDINGS:  
  
The uterus is anteverted and measures 7.8 x 3.5 x 4.5 cm.  The 
endometrium is heterogeneous, shows both echogenic and cystic 
portions, and measures 7 mm.  
No internal blood flow is seen within the endometrium.  These 
findings may 
represent blood products due to stage of the menstrual cycle, 
although 
underlying polyp or additional lesion is difficult to exclude. 
  
The ovaries are normal.  There is no free fluid. 
  
IMPRESSION:  
Heterogeneous, avascular endometrium with both echogenic and 
cystic portions, measuring up to 7 mm.  These findings may 
represent blood products due to stage of menstrual cycle, 
although underlying polyp or additional lesion is not excluded 
and may be present.  Recommend gynecologic follow-up and 
follow-up ultrasound ___ days after termination of bleeding. 
  
RECOMMENDATION(S):  Recommend gynecologic follow-up and 
follow-up ultrasound ___ days after termination of bleeding.  
If finding persists, possible sonohysterogram. 

 
Brief Hospital Course:
Ms. ___ is a ___ y.o. perimenopausal F with ESRD ___ 
T1DM s/p simultaneous pancreas-kidney ___, 
HTN, with a recent hospitalization from ___ for provoked 
LLE DVT (currently not on anti-coagulation), who was admitted to 
the Inpatient Medicine Service on ___ for vaginal bleeding and 
anemia (Hgb 6.7), as well as mild ___, improved after 2u pRBC 
transfusions. 

ACTIVE ISSUES:
#ERROR!
#Anemia
#Vaginal bleeding
Hgb 6.7 at admission, for which pt received 2U pRBC in ED. TVUS 
in ED notable for heterogenous endometrium measuring up to 7mm 
that may represent blood products, but underlying polyp could 
not be excluded. Pt is also perimenopausal. Hb responed well to 
2u pRBC and vaginal bleeding improved during time here. Seen by 
OB/GYN and given improvement they recommended outpatient follow 
up. Hemolysis labs negative. Provera deferred given history of 
DVT. 

#ESRD ___ ___ s/p SPK ___
#Hyperkalemia
#Immunosuppresion.
Cr 2.2 at admission (Baseline Cr 1.6-2.0). Renal U/S in ED 
without concerning findings. Seen by Renal in ED who felt 
possibly pre-renal ___ on ESRD iso acute anemia. K initially 
elevated to 5.5, but repeat whole blood 5. Renal recommended 1
amp HCO3, however pt refused this as she has experienced diffuse 
joint pain twice in the past after receiving HCO3. Held home 
Lisinopril iso ___ and mild hyperK, started on amlodipine 
instead. Tacro level mildly elevated but continued home dose 
with plan for close outpatient follow up with lab check. 
Continued other home immunosuppresants 

#Hypomagnesia
Replete with PO mag on day of discharge

CHRONIC ISSUES:
#ERROR!
#LLE DVT
Off coumadin. Gave SQ hep bid 

#Nutrition
Nutriton consulted re: poor diet, recommended more vegetables 
and fruit. 

#HTN
Holding home Lisinopril ,starting amlodipine 5mg.

#IBS/Diarrhea
Contine loperamide PRN

Transitional Issues
#ERROR!
Discharge Cr: 1.2
Discharge Hb: 10.2
Tacro level: 8.0
Sirolimus level: 7.5

[] Please check Chem-10, CBC, and tacro/siro level on ___ AM.
[] For HTN: Lisinopril held iso ___ and hyperkalemia. Patient 
started on amlodipine 5mg on day of discharge. Please follow up 
blood pressure at outpatient follow up. 
[] Sodium bicarb increased to 1300 BID per renal 
recommendations, please assess need for increased dose after lab 
check ___
[] Patient had Mag of 1.5 on day of discharge, repleted with PO 
mag, please consider supplements if remains low on ___ check
[] Heterogeneous, avascular endometrium with both echogenic and 
cystic portions, 
measuring up to 7 mm.  These findings may represent blood 
products due to 
stage of menstrual cycle, although underlying polyp or 
additional lesion is 
not excluded and may be present.  Recommend gynecologic 
follow-up and 
follow-up ultrasound ___ days after termination of bleeding. 

#CODE: Full Code (confirmed with patient on ___
#HCP: ___, ___ 
#Alternate HCP: ___, ___ 

>30 minutes spent on discharge planning including face to face 
time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. LOPERamide 2 mg PO BID 
3. PredniSONE 2.5 mg PO DAILY 
4. Sirolimus 2 mg oral DAILY 
5. Tacrolimus 2 mg PO Q12H 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Sodium Bicarbonate 650 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Magnesium Oxide 400 mg PO BID Duration: 2 Doses 
RX *magnesium oxide 400 mg 1 tablet(s) by mouth once Disp #*1 
Tablet Refills:*0 
3.  Sodium Bicarbonate 1300 mg PO BID 
RX *sodium bicarbonate 650 mg 2 tablet(s) by mouth twice a day 
Disp #*120 Tablet Refills:*0 
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  LOPERamide 2 mg PO BID  
6.  PredniSONE 2.5 mg PO DAILY  
7.  Sirolimus 2 mg oral DAILY  
8.  Tacrolimus 2 mg PO Q12H  
9.  Vitamin D 1000 UNIT PO DAILY  
10. HELD- Lisinopril 5 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you see your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
#ERROR!
Vaginal bleeding
Acute blood loss anemia

Secondary
#ERROR!
___
Renal and pancreatic transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had vaginal bleeding and needed a blood transfusion  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had a blood transfusion and your blood counts got better
- The kidney transplant doctors saw ___ and made some changes to 
your blood pressure medications 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below. There have been changes 
in your medications
-Please go to the ___ on ___ in the 
morning to get repeat labs done
- Please seek medical attention if your vaginal bleeding worsens

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___